US06262069B1
(R)-N-(2-Butoxycarbonylamino-2-phenylethyl)phthalimide
Boc-(R)-1,2 diamino-1-phenylethane (prepared by the method of O'Brien, P. et al. J. Med. Chem. 37 (1994) 12, 1810-1822) (0.3 g, 1.27 mmol.), phthalic anhydride (0.2 g., 1.4 mmol.) and TEA (0.1 ml) were dissolved in chloroform (20 ml.) and stirred under reflux for 2 days. The reaction mixture was then washed with 10% hydrochloric acid, 2M sodium hydroxide solution and brine, dried over magnesium sulphate, filtered and evaporated to give the product. The above product was further elaborated by Method 4 to the title compound.

reactant | Boc-(R)-1,2 diamino-1-phenylethane | C(=O)(OC(C)(C)C)[C@](CN)(C1=CC=CC=C1)N | C13H20N2O2
reactant | phthalic anhydride | 1.4 mmol, 0.2 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | (R)-N-(2-Butoxycarbonylamino-2-phenylethyl)phthalimide | C(CCC)OC(=O)N[C@@H](CN1C(C=2C(C1=O)=CC=CC2)=O)C2=CC=CC=C2 | C21H22N2O4
